US08207172B2
Preparation of 2-[1-(chloroacetyl)piperidin-4-yl]-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine
To a suspension of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-piperidin-4-yl-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine 500 mg (0.89 mmol, 1 eq) in DCM (10 mL) was added chloroacetyl chloride (100 mg, 0.89 mmol, 1 eq) and triethylamine (90 mg, 0.89 mmol, 1 eq). It was stirred at rt for 3 h after which time it was diluted with water. It was then was extracted 3 times with EtOAc. The combined organic layers were dried over MgSO4 and concentrated to yield the desired product (400 mg, 70%). 1H-NMR (DMSO-d6) δ 8.45 (broad, 1H), 8.33 (s, 1H), 8.04 (s, 1H), 7.74 (d, 1H), 7.5 (dd, 1H), 7.44 (m, 1H), 7.29 (m, 2H), 7.20 (m, 2H), 5.23 (s, 2H), 4.45 (m, 4H), 3.93 (m, 1H), 3.38 (t, 2H), 3.24 (m, 1H), 2.92 (t, 2H), 2.83 (m, 1H), 2.08 (m, 2H), 1.97 (m, 1H), 1.80 (m, 1H). LCMS RT=3.68 min; [M+H]+=637.4.

reactant | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-2-piperidin-4-yl-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 0.89 mmol, 500 mg, 1 eq | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1N=CN=C2C1C1=C(C3=CN(N=C3CC1)C1CCNCC1)S2 | C29H26ClFN6OS
reactant | chloroacetyl chloride | 0.89 mmol, 100 mg, 1 eq | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 0.89 mmol, 90 mg, 1 eq | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-[1-(chloroacetyl)piperidin-4-yl]-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-4,5-dihydro-2H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 400 mg, 70% | ClCC(=O)N1CCC(CC1)N1N=C2CCC3=C(C2=C1)SC=1C3=C(N=CN1)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl | C31H27Cl2FN6O2S
